US04855295
5, 6,7,8-Tetrahydro-5-ethoxymethyl-4-methyl-beta-carboline-3-carboxylic acid ethyl ester
5-Ethoxymethyl-4-methyl-beta-carboline-3-carboxylic acid ethyl ester (1 g) is shaken in ethanol (80 ml) with 10% palladium carbon (0.3 g) at a hydrogen pressure of 40 bars and a temperature of 70° C. for 2 hours. After filtering off of the catalyst, the reaction solution is evaporated, the residue is crystallized by treatment with a mixture of acetic acid and ethanol. The yield in 5,6,7,8-tetrahydro-5-ethoxymethyl-4-methyl-beta-carboline-3-carboxylic acid ethyl ester is 0.66 g.

reactant | 5-Ethoxymethyl-4-methyl-beta-carboline-3-carboxylic acid ethyl ester | 1 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1C)COCC | C18H20N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | palladium carbon | 0.3 g | [C].[Pd]
product | 5, 6,7,8-Tetrahydro-5-ethoxymethyl-4-methyl-beta-carboline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=CC=2NC=3CCCC(C3C2C1C)COCC | C18H24N2O3
